US09169196B2
Following the amide coupling procedure described in protocol A, 504 mg 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (2.01 mmol), 361 mg CDI (2.23 mmol) and 1.1 mL of a 2.0 M solution of NN-dimethylamine in THF (2.2 mmol) produced 412 mg of 6-hydroxy-N,N,2,5,7,8-hexamethylchroman-2-carboxamide as amorphous powder.

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 2.01 mmol, 504 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | CDI | 2.23 mmol, 361 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | THF | 2.2 mmol | C1CCOC1 | C4H8O
product | 6-hydroxy-N,N,2,5,7,8-hexamethylchroman-2-carboxamide | 412 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)N(C)C)C)C | C16H23NO3
